US07932271B2
1-[3-(t-Butyldimethylsilyloxy)propyl]piperidin-2-one
At 0° C., sodium hydride (60% in oil, 2.22 g, 55.6 mmol) was added in portions to a tetrahydrofuran solution (200 ml) of piperidin-2-one (5.00 g, 50.5 mmol). The reaction mixture was then stirred at room temperature for 3 hours. After addition of (3-bromopropoxy)-t-butyldimethylsilane (14.1 ml, 60.6 mmol) and N,N-dimethylformamide (20 ml) to the reaction mixture, the resulting mixture was stirred at room temperature for 4 days. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and concentrated. The residue thus obtained was subjected to silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=2:1 eluate was concentrated to give the title compound (6.44 g, 23.8 mmol, 47%) as a colorless oil.

reactant | sodium hydride | 55.6 mmol, 2.22 g | [H-].[Na+]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | piperidin-2-one | 50.5 mmol, 5.00 g | N1C(CCCC1)=O | C5H9NO
reactant | (3-bromopropoxy)-t-butyldimethylsilane | 60.6 mmol, 14.1 ml | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[3-(t-Butyldimethylsilyloxy)propyl]piperidin-2-one | 23.8 mmol, 6.44 g, 47% | [Si](C)(C)(C(C)(C)C)OCCCN1C(CCCC1)=O | C14H29NO2Si
